US09216980B2
Step 3: 1-(4-Bromobenzyl)-4-methoxy-4-methylpiperidine
A mixture of 4-bromobenzyl bromide (0.44 g, 1.74 mmol), triethylamine (0.37 mL, 2.61 mmol) and 4-methoxy-4-methylpiperidine (0.45 g, 3.49 mmol) in THF (10 mL) was stirred at ambient temperature for 16 h. The solvent was evaporated and the resultant residue was diluted with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate (2×50 mL). The combined organic layer was dried over sodium sulfate, filtered and evaporated to afford the title compound as a yellow oil (0.50 g, 96%). 1H NMR (CDCl3, 300 MHz): 7.45-7.39 (m, 2H), 7.22-7.17 (m, 2H), 3.44 (s, 2H), 3.17 (s, 3H), 2.52-2.42 (m, 2H), 2.36-2.25 (m, 2H), 1.79-1.70 (m, 2H), 1.59-1.47 (m, 2H), 1.13 (s, 3H).

reactant | 4-bromobenzyl bromide | 1.74 mmol, 0.44 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylamine | 2.61 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-4-methylpiperidine | 3.49 mmol, 0.45 g | COC1(CCNCC1)C | C7H15NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-Bromobenzyl)-4-methoxy-4-methylpiperidine | 0.50 g, 96% | BrC1=CC=C(CN2CCC(CC2)(C)OC)C=C1 | C14H20BrNO
